US05935972
5-Bromo-7-methyl-benzofuran
A solution of 4-bromo-1-[(2,2-dimethoxyethyl)oxy]-2-methylbenzene (5 g) in toluene (5 ml) was added to a mixture of polyphosphoric acid (2 g) and toluene (20 ml) at reflux, and the resulting dark mixture heated at reflux for 4 h. The solvent was decanted from the cooled mixture which was washed with further toluene (2×20 ml). The residue was dissolved in 2N sodium carbonate (20 ml) and was extracted with dichloromethane (3×20 ml). The combined, dried (MgSO4) organics were evaporated in vacuo and the dark residue purified by Kugelrohr distillation (8 mbar, 150°) to give a mixture of starting material and product as a colorless oil (4.1 g). The mixture was purified by FCC eluting with dichloromethane-hexane (1:3) to give the title compound as an oil (1.33 g).

reactant | 4-bromo-1-[(2,2-dimethoxyethyl)oxy]-2-methylbenzene | 5 g | BrC1=CC(=C(C=C1)OCC(OC)OC)C | C11H15BrO3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-7-methyl-benzofuran | 1.33 g | BrC=1C=C(C2=C(C=CO2)C1)C | C9H7BrO
